US09079866B2
5-[4′-(5-Aminopyrazin-2-yl)-3′-fluoro-5-(trifluoromethyl)biphenyl-2-yl]pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 838 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 2-bromo-1-chloro-4-(trifluoromethyl)benzene in Step A and 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine in Step B. MS (ESI): mass calcd. for C21H14F4N6, 426.12; m/z found, 427.0 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.36 (dd, J=2.1, 1.5, 1H), 8.10 (s, 2H), 8.05 (d, J=1.5, 1H), 7.90-7.85 (m, 1H), 7.81-7.77 (m, 1H), 7.74 (d, J=1.8, 1H), 7.66 (d, J=8.0, 1H), 7.13 (dd, J=2.6, 1.7, 1H), 7.11 (dd, J=6.5, 1.6, 1H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-1-chloro-4-(trifluoromethyl)benzene | BrC1=C(C=CC(=C1)C(F)(F)F)Cl | C7H3BrClF3
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
product | 5-[4′-(5-Aminopyrazin-2-yl)-3′-fluoro-5-(trifluoromethyl)biphenyl-2-yl]pyrimidin-2-amine | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC(=C1)C(F)(F)F)C=1C=NC(=NC1)N)F | C21H14F4N6
